US06693123B2
4-(4-Pyridyl-t-butyldimethylsilyloxymethyl)-2-phenylbenzoic Acid Methyl Ester
4-(4-Pyridylhydroxymethyl)-2-phenylbenzoic acid methyl ester (769 mg, 2.41 mmol), prepared as in Example 297A, diisopropylethylamine (0.84 mL, 4.8 mmol), and t-butyldimethylsilyl triflate (1.1 mL, 4.8 mmol) were dissolved in methylene chloride (50 mL) and stirred for 18 hours. TLC indicated the presence of the alcohol so additional base (1 mL) and triflate (0.5 mL) were added. After 15 minutes, all starting alcohol was consumed. The reaction mixture was washed with water, 5% NaHCO3, and brine, dried over Na2SO4, and concentrated. Chromatography on silica gel (20% ethyl acetate-hexane) provided the desired compound in a 93% yield.

reactant | 4-(4-Pyridylhydroxymethyl)-2-phenylbenzoic acid methyl ester | 2.41 mmol, 769 mg | COC(C1=C(C=C(C=C1)C(O)C1=CC=NC=C1)C1=CC=CC=C1)=O | C20H17NO3
reactant | diisopropylethylamine | 4.8 mmol, 0.84 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | t-butyldimethylsilyl triflate | 4.8 mmol, 1.1 mL | O(S(=O)(=O)C(F)(F)F)[Si](C)(C)C(C)(C)C | C7H15F3O3SSi
reactant | triflate | 0.5 mL | [O-]S(=O)(=O)C(F)(F)F
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-Pyridyl-t-butyldimethylsilyloxymethyl)-2-phenylbenzoic Acid Methyl Ester | 93% yield | COC(C1=C(C=C(C=C1)C(O[Si](C)(C)C(C)(C)C)C1=CC=NC=C1)C1=CC=CC=C1)=O | C26H31NO3Si
